### PR TITLE
[Merged by Bors] - feat(Data/Finsupp/Basic): Finsupp.optionElim

### PR DESCRIPTION
**Pull request by BoltonBailey**
Similar to how `Finsupp.cons` constructs a map `Fin (n + 1) →₀ M` from a map `Fin n →₀ M`,
we define `Finsupp.optionElim'` to construct a map `Option α →₀ M` from a map `α →₀ M`, given an additional value for `none`. We base this on the new `optionEquiv` definition. As a function, it behaves as `Option.elim'`, hence the name.

We prove a variety of API lemmas, based on those for `Finsupp.cons`, to bring the definitions more in line with the contents of Data/Finsupp/Fin.

Original PR: https://github.com/leanprover-community/mathlib4/pull/13861

- [x] depends on: #26309

### CODE REVIEW

**Comment by eric-wieser** [comment]
Please copy across the PR description

**Comment by BoltonBailey** [comment]
> Please copy across the PR description

If we want the copied PRs to have their descriptions carried over, it seems like it might be best to modify the migration script to do this.

**Comment by eric-wieser** [comment]
The script was supposed to do this, but has a bug.

File: Mathlib/Data/Finsupp/Basic.lean [hunk 1]
```diff
@@ -719,101 +715,6 @@ end FInjective
...
 end ComapDomain
 
-/-! ### Declarations about finitely supported functions whose support is an `Option` type -/
-
-
-section Option
-
-/-- Restrict a finitely supported function on `Option α` to a finitely supported function on `α`. -/
-def some [Zero M] (f : Option α →₀ M) : α →₀ M :=
-  f.comapDomain Option.some fun _ => by simp
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean]: If this code is moving, could you move it first in a standalone PR?

File: Mathlib/Data/Finsupp/Single.lean [hunk 2]
```diff
@@ -294,6 +294,18 @@ theorem coe_update [DecidableEq α] : (f.update a b : α → M) = Function.updat
...
+  rw [coe_update, Function.update_apply]
+
+@[simp]
+theorem update_self_apply : f.update a b a = b := by
+  simp [update]
+
+@[simp]
+theorem update_apply_of_ne (h : a' ≠ a) : f.update a b a' = f a' := by
+  classical
+  simp [update_apply, h]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Single.lean]: I'm rather surprised the linter doesn't reject these; the point of the `coe_update` lemma above is to make these unnecessary.

File: Mathlib/Data/Finsupp/Basic.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Basic.lean]: Good point

File: Mathlib/Data/Finsupp/Option.lean [hunk 3]
```diff
@@ -7,80 +7,192 @@ import Mathlib.Data.Finsupp.Basic
...
+    (n = (embDomain Embedding.some m).update none i) ↔
+      n none = i ∧ n.some = m := by
+  classical
+  rw [Finsupp.ext_iff, Option.forall, Finsupp.ext_iff]
+  apply and_congr
+  · simp
+  · apply forall_congr'
+    intro
+    simp only [coe_update, ne_eq, reduceCtorEq, not_false_eq_true, update_of_ne, some_apply]
+    rw [← Embedding.some_apply, embDomain_apply, Embedding.some_apply]
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Option.lean]: If you merge master (again) this proof should go away)

File: Mathlib/Data/Finsupp/Single.lean (hunk 2 above)
Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Single.lean]: I guess the reason is that the lemma above has a `[DecidableEq α]` argument and the lemmas I wrote do not. I could include `[DecidableEq α]` in these lemmas and they would be proven by `simp` directly. Or I could remove these lemmas and use classical in the new proofs that need it.

But I feel the latter would be a somewhat frustrating outcome. It seems like at that point, everyone who doesn't open classical in their proofs is going to get caught wondering why their `simp` calls don't finish the job.

Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Single.lean]: It's confusing because `Finsupp.update` immediately above uses `haveI := Classical.decEq α;`, so how it is it decided when something should require a decidableEq argument and when it should be obtained via `Classical.decEq`?

Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Single.lean]: Ok, well, seems orthogonal, so I'll just revert the other changes.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/Finsupp/Basic.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Basic.lean]: Ok https://github.com/leanprover-community/mathlib4/pull/26309 is merged

File: Mathlib/Data/Finsupp/Option.lean [hunk 4]
```diff
@@ -9,12 +9,23 @@ public import Mathlib.Data.Finsupp.Basic
...
 /-!
-# Declarations about finitely supported functions whose support is an `Option` type p
+# Operations on `Finsupp`s with an `Option` domain
+
+Similar to how `Finsupp.cons` and `Finsupp.tail` construct
+an object of type `Fin (n + 1) →₀ M` from a map `Fin n →₀ M` and vice versa,
+we define `Finsupp.optionElim'` and `Finsupp.some`
+to construct `Option α →₀ M` from a map α →₀ M, and vice versa.
+
+As functions, these behave as `Option.elim'`, and as an application of `some` hence the names.
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Option.lean:19]: The distinction between `Option.elim` and `Option.elim'` is very minor. What do you think of dropping all the `'` in this file?

File: Mathlib/Data/Finsupp/Option.lean [hunk 5]
```diff
@@ -85,6 +102,86 @@ def optionEquiv [Zero M] : (Option α →₀ M) ≃ M × (α →₀ M) where
...
+    cases h with
+    | inl h => exact optionElim'_ne_zero_of_right y f h
+    | inr h => exact optionElim'_ne_zero_of_left y f h
+
+end Zero
+
+@[simp]
+theorem some_add [AddZeroClass M] (f g : Option α →₀ M) : (f + g).some = f.some + g.some := by
+  ext
+  simp
```
Comment (jcommelin) [inline Mathlib/Data/Finsupp/Option.lean]: Can you move this back up, so that it's next to `some_zero` and `some_apply`, etc...

I understand that you have a `Zero` section. But I think it makes more sense to have all the `optionElim` decls together, and all the `some` decls together.

Alternatively, can (almost) all the `optionElim` decls go before `some`?

File: Mathlib/Data/Finsupp/Option.lean (hunk 4 above)
Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Option.lean:19]: Sure, I think that's fine, clearly it has the advantage of not adding to the prime linter debt.

File: Mathlib/Data/Finsupp/Option.lean (hunk 5 above)
Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Option.lean]: Ok I have moved it back to its original location, I like this better than putting all the optionElim first since I think `some` is the preexisting declaration and therefore more likely what people will want to see first.

Comment (BoltonBailey) [reply Mathlib/Data/Finsupp/Option.lean]: I have done this by briefly breaking out of the `Zero` section, let me know if you think I should simply revert the sectioning entirely.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
